US07691882B2
3-(3-(6-(4-Fluoro-benzyloxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (10.0 mL) solution of (6-(4-fluoro-benzyloxy)-pyridin-3-yl)-acetohydroximoyl chloride (133 mg, 0.450 mmol) described in Manufacturing Example 58-1-5 and 3-ethynyl-pyridin-2,6-diamine (30.0 mg, 0.225 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (94.1 μL, 0.675 mmol), which was stirred for 3 hours at room temperature. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=3:1) to obtain the title compound (67.4 mg, 76.5%).

reactant | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
reactant | (6-(4-fluoro-benzyloxy)-pyridin-3-yl)-acetohydroximoyl chloride | 0.450 mmol, 133 mg | FC1=CC=C(COC2=CC=C(C=N2)CC(=NO)Cl)C=C1 | C14H12ClFN2O2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.225 mmol, 30.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.675 mmol, 94.1 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(6-(4-Fluoro-benzyloxy)-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 67.4 mg, 76.5% | FC1=CC=C(COC2=CC=C(C=N2)CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H18FN5O2
